Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][c:2]1[cH:3][cH:4][cH:5][s:6]1.[NH3+:7][CH2:8][CH2:9][O:10][c:11]1[cH:12][cH:13][c:14]2[cH:15][cH:16][cH:17][cH:18][c:19]2[c:20]1[F:21]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][s:6]1)[NH:7][CH2:8][CH2:9][O:10][c:11]1[cH:12][cH:13][c:14]2[cH:15][cH:16][cH:17][cH:18][c:19]2[c:20]1[F:21],[NH2:7][CH2:8][CH2:9][O:10][c:11]1[cH:12][cH:13][c:14]2[cH:15][cH:16][cH:17][cH:18][c:19]2[c:20]1[F:21].[O:101]=[CH:1][c:2]1[cH:3][cH:4][cH:5][s:6]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][s:6]1)[NH:7][CH2:8][CH2:9][O:10][c:11]1[cH:12][cH:13][c:14]2[cH:15][cH:16][cH:17][cH:18][c:19]2[c:20]1[F:21],reductive_amination,"[(7, 1), ([1, 101], 301), (101, 7.1), ([7.1, 7], 7), (7, [7, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 7], 7)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][N:2]1[S:3](=[O:4])(=[O:5])[NH:6][CH:7]([CH:8]([CH3:9])[CH3:10])[C:11]1=[O:12].[O:13]=[C:14]([OH:15])[c:16]1[c:17]([Cl:18])[cH:19][cH:20][cH:21][c:22]1[Cl:23]>>[CH2:1]([N:2]1[S:3](=[O:4])(=[O:5])[NH:6][CH:7]([CH:8]([CH3:9])[CH3:10])[C:11]1=[O:12])[O:15][C:14](=[O:13])[c:16]1[c:17]([Cl:18])[cH:19][cH:20][cH:21][c:22]1[Cl:23],[Cl:101][CH2:1][N:2]1[S:3](=[O:4])(=[O:5])[NH:6][CH:7]([CH:8]([CH3:9])[CH3:10])[C:11]1=[O:12].[O:13]=[C:14]([OH:15])[c:16]1[c:17]([Cl:18])[cH:19][cH:20][cH:21][c:22]1[Cl:23].[H-:301].[Na+]>>[CH2:1]([N:2]1[S:3](=[O:4])(=[O:5])[NH:6][CH:7]([CH:8]([CH3:9])[CH3:10])[C:11]1=[O:12])[O:15][C:14](=[O:13])[c:16]1[c:17]([Cl:18])[cH:19][cH:20][cH:21][c:22]1[Cl:23],SN2_alcohol(thiol),"[(301, 15.1), ([15.1, 15], 15), (15, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:2]=[C:1](OC(=O)C(F)(F)F)[C:3]([F:4])([F:5])[F:6].[CH3:7][c:8]1[cH:9][cH:10][c:11]([NH2:12])[c:13]([C:14](=[O:15])[OH:16])[cH:17]1>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[NH:12][c:11]1[cH:10][cH:9][c:8]([CH3:7])[cH:17][c:13]1[C:14](=[O:15])[OH:16],O=C([O:101][C:1](=[O:2])[C:3]([F:4])([F:5])[F:6])C(F)(F)F.[CH3:7][c:8]1[cH:9][cH:10][c:11]([NH2:12])[c:13]([C:14](=[O:15])[OH:16])[cH:17]1>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[NH:12][c:11]1[cH:10][cH:9][c:8]([CH3:7])[cH:17][c:13]1[C:14](=[O:15])[OH:16],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(12, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][c:5]([CH2:6][O:7][CH3:8])[o:9]1.[O:10]=[c:11]1[nH:12][c:13]2[cH:14][cH:15][cH:16][cH:17][c:18]2[n:19]1[CH:20]1[CH2:21][CH2:22][NH:23][CH2:24][CH2:25]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][O:7][CH3:8])[o:9]1)[N:23]1[CH2:22][CH2:21][CH:20]([n:19]2[c:11](=[O:10])[nH:12][c:13]3[cH:14][cH:15][cH:16][cH:17][c:18]23)[CH2:25][CH2:24]1,[O:10]=[c:11]1[nH:12][c:13]2[cH:14][cH:15][cH:16][cH:17][c:18]2[n:19]1[CH:20]1[CH2:21][CH2:22][NH:23][CH2:24][CH2:25]1.[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]([CH2:6][O:7][CH3:8])[o:9]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][O:7][CH3:8])[o:9]1)[N:23]1[CH2:22][CH2:21][CH:20]([n:19]2[c:11](=[O:10])[nH:12][c:13]3[cH:14][cH:15][cH:16][cH:17][c:18]23)[CH2:25][CH2:24]1,reductive_amination,"[(23, 1), ([1, 101], 301), (101, 23.1), ([23.1, 23], 23), (23, [23, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 23], 23)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH3:2])[CH:3]1[CH2:4][CH2:5][CH2:6]1.[cH:7]1[cH:8][cH:9][c:10]2[n:11][cH:12][c:13]([NH:14][c:15]3[n:16][cH:17][n:18][c:19]4[c:20]3[CH2:21][NH:22][CH2:23]4)[cH:24][c:25]2[cH:26]1>>[CH:1]([CH3:2])([CH:3]1[CH2:4][CH2:5][CH2:6]1)[N:22]1[CH2:21][c:20]2[c:15]([NH:14][c:13]3[cH:12][n:11][c:10]4[cH:9][cH:8][cH:7][cH:26][c:25]4[cH:24]3)[n:16][cH:17][n:18][c:19]2[CH2:23]1,[cH:7]1[cH:8][cH:9][c:10]2[n:11][cH:12][c:13]([NH:14][c:15]3[n:16][cH:17][n:18][c:19]4[c:20]3[CH2:21][NH:22][CH2:23]4)[cH:24][c:25]2[cH:26]1.[O:101]=[C:1]([CH3:2])[CH:3]1[CH2:4][CH2:5][CH2:6]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH:1]([CH3:2])([CH:3]1[CH2:4][CH2:5][CH2:6]1)[N:22]1[CH2:21][c:20]2[c:15]([NH:14][c:13]3[cH:12][n:11][c:10]4[cH:9][cH:8][cH:7][cH:26][c:25]4[cH:24]3)[n:16][cH:17][n:18][c:19]2[CH2:23]1,reductive_amination,"[(22, 1), ([1, 101], 301), (101, 22.1), ([22.1, 22], 22), (22, [22, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 22], 22)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
